US09126981B2
Synthesis of 1-((3-benzylureido)methyl)cyclopropanecarboxylic Acid (Compound VI-1)
To the solution of ethyl 1-((3-benzylureido)methyl)cyclopropanecarboxylate (Compound V-3)(1.6 g, 5.8 mmol) in tetrahydrofuran/methanol/water (2:3:1, 20 ml), lithium hydroxide monohydrate (487 mg, 11.6 mmol) was added and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with water (25 ml) and washed with ether (25 ml). The aqueous layer was acidified with 10%-citric acid (15 ml) and extracted with chloroform (30 ml). The organic layer was washed with brine (25 ml) and dried over magnesium sulfate and then filtered. The filtrate was concentrated in vacuo to obtain the title compound (1.08 g, 77%).

reactant | ethyl 1-((3-benzylureido)methyl)cyclopropanecarboxylate | 5.8 mmol, 1.6 g | C(C1=CC=CC=C1)NC(NCC1(CC1)C(=O)OCC)=O | C15H20N2O3
reactant | lithium hydroxide monohydrate | 11.6 mmol, 487 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 20 ml | O1CCCC1.CO.O
solvent | water | 25 ml | O | H2O
product | 1-((3-benzylureido)methyl)cyclopropanecarboxylic Acid | 1.08 g, 77% | C(C1=CC=CC=C1)NC(NCC1(CC1)C(=O)O)=O | C13H16N2O3
